US06689806B1
To a warm, stirred solution of 6-bromo-2-oxindole (4 g, 26.3 mmol) dissolved in 60 mL toluene and 60 mL ethanol was added tetrakis(triphenylphosphine)palladium(0) (2.3 g, 1.9 mmol) followed by 2M aqueous sodium carbonate (50 mL, 100 mmol) and thiophene-2-boronic acid (4.38 g, 34.2 mmol) in three portions over 1.5 hours. The mixture was stirred at 100° C. in an oil bath for 12 hours. The mixture was then diluted with ethyl acetate (400 mL) and washed with saturated sodium bicarbonate (200 mL), water (200 mL) and brine (200 mL). The organic layer was separated, dried over anhydrous magnesium sulfate and concentrated to give 2.53 g (42%) of 6-thiophen-2-yl-1,3-dihydro-indol-2-one a tan solid.

reactant | 6-bromo-2-oxindole | 26.3 mmol, 4 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | sodium carbonate | 100 mmol, 2M, 50 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | thiophene-2-boronic acid | 34.2 mmol, 4.38 g | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.9 mmol, 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-thiophen-2-yl-1,3-dihydro-indol-2-one | 2.53 g, 42% | S1C(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C12H9NOS
